US08614215B2
Intermediate 65: 1-(2-Bromoethyl)-4-methoxy-2-nitrobenzene
A suspension of triphenylphosphine (26 g, 1 mol) in DCM (100 mL) under nitrogen atmosphere at 25-26° C. is cooled down to 0-5° C. A solution of bromine (15.9 g, 0.1 mol) in DCM (150 mL) is added over 30 min at the same temperature. The reaction mixture is stirred for 15 min at 0-5° C. A solution of 2-(4-methoxy-2-nitrophenyl)ethanol (14 g, 0.07 mol) and pyridine (7.8 g, 0.1 mol) in DCM (100 mL) is added to the above reaction mixture over 30 min at 0-5° C. The resulting reaction mixture is warmed up to 25-26° C. and stirred for 3 h. The reaction is quenched by addition of cold water (250 mL). The crude product is extracted with DCM (2×200 mL). The organic layer is washed with water and brine (200 mL each), dried over Na2SO4 and concentrated to dryness. The crude residue obtained is purified by column chromatography (60-120 mesh silica gel, eluent: 5% EtOAc in petrol ether) to give 14.7 g (79%) of the title compound as a yellow solid. 1H NMR (DMSO-d6, 400 MHz) δ 7.51-7.49 (m, 2H), 7.30-7.27 (m, 1H), 3.83 (s, 3H), 3.82-3.68 (m, 2H), 3.32-3.27 (m, 2H).

reactant | triphenylphosphine | 1 mol, 26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 0.1 mol, 15.9 g | BrBr | Br2
reactant | 2-(4-methoxy-2-nitrophenyl)ethanol | 0.07 mol, 14 g | COC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C9H11NO4
reactant | pyridine | 0.1 mol, 7.8 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromoethyl)-4-methoxy-2-nitrobenzene | 14.7 g, 79% | BrCCC1=C(C=C(C=C1)OC)[N+](=O)[O-] | C9H10BrNO3
